US05552398
A stirred solution of diisopropylamine (2.25 ml, 0.016 mole) in dry THF (20 ml) at -50° C. under nitrogen was treated with 1.6M n-butyllithium in hexane (9.4 ml, 0.015 mole). After 10 minutes the solution was cooled to -65° C. and treated with a solution of quinolizidin-4-one (I. Murakoshi, Yakugaku Zasshi, 1958, 78, 594) (2.0 g, 0.013 mole) in ether (20 ml), stirred for a further 10 minutes and then ethylene oxide (1.23 g, 0.028 mole) bubbled into the solution, which was allowed to warm to room temperature over 1 hour and then heated under reflux for 1.5 hours. The reaction mixture was treated with concentrated potassium carbonate solution (30 ml) and extracted with ethyl acetate (2×60 ml). The combined extracts were dried (Na2SO4), concentrated in vacuo and the residue chromatographed on silica gel eluting with chloroform/methanol (98:2) to afford 3-(2-hydroxyethyl)quinolizidin-4-one as a pale yellow oil (1.4 g, 55%).

reactant | diisopropylamine | 0.016 mole, 2.25 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 0.015 mole, 9.4 ml | CCCCCC | C6H14
reactant | quinolizidin-4-one | 0.013 mole, 2.0 g | C1CCC(N2CCCCC12)=O | C9H15NO
reactant | ethylene oxide | 0.028 mole, 1.23 g | C1CO1 | C2H4O
reactant | potassium carbonate | 30 ml | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-(2-hydroxyethyl)quinolizidin-4-one | 1.4 g, 55% | OCCC1CCC2CCCCN2C1=O | C11H19NO2
